US07148234B2
STEP 1. 2-methyl-1-(4-nitrophenyl)-2-propanol
To a solution of 1,1-dimethyl-2-(4-nitrophenyl)ethyl acetate (52 mmol) in MeOH (50 ml) was added 4N—LiOH (40 ml) and the mixture was stirred at 50° C. for 2 h. After the solvent was removed, this mixture was diluted with water and extracted with EtOAc (4×50 ml). The organic layer was washed with brine, dried (MgSO4) and concentrated. This crude was purified by SiO2 column chromatography developing with hexane/ethyl acetate (5/1) to give the title compound as yellow oil (3.3 g, 33%).

reactant | 1,1-dimethyl-2-(4-nitrophenyl)ethyl acetate | 52 mmol | C(C)(=O)OC(CC1=CC=C(C=C1)[N+](=O)[O-])(C)C | C12H15NO4
reactant | LiOH | 40 ml | [Li+].[OH-]
solvent | MeOH | 50 ml | CO | CH4O
product | 2-methyl-1-(4-nitrophenyl)-2-propanol | 3.3 g, 33% | CC(CC1=CC=C(C=C1)[N+](=O)[O-])(C)O | C10H13NO3
